US05591735
Preparation of 16β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2α,3α-epoxy-5α-androstane-17β-ol
16β-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-2α,3α-epoxy-5α-androstan-17-one is reduced by using sodium borohydride as described in Example 2 to give the title compound in a yield of 91.1%, m.p.: 186°-188° C.

reactant | 16β-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-2α,3α-epoxy-5α-androstan-17-one | O1CCOC12CCN(CC2)[C@@H]2C([C@]1(C)[C@@H](C2)[C@@H]2CC[C@H]3C[C@H]4[C@@H](C[C@]3(C)[C@H]2CC1)O4)=O | C26H39NO4
reactant | sodium borohydride | [BH4-].[Na+]
product | 16β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2α,3α-epoxy-5α-androstane-17β-ol | yield of 91.1% | O1CCOC12CCN(CC2)[C@@H]2[C@@H]([C@]1(C)[C@@H](C2)[C@@H]2CC[C@H]3C[C@H]4[C@@H](C[C@]3(C)[C@H]2CC1)O4)O | C26H41NO4
